* Z:\mnt\design.r\spice\examples\1703.asc
XU1 IN N001 N008 N004 N006 N019 IN N020 N015 0 N017 OUT1 0 0 0 0 0 IN N011 N012 N021 N003 0 N007 N005 N009 N002 N018 LTC1703
M§Q1 IN N005 N007 N007 Si4410DY
M§Q2 N007 N009 0 0 Si4410DY
L1 N007 OUT2 2.2µ
D1 IN N001 1N5818
D2 IN N002 1N5818
C1 N020 0 .001µ
C2 N021 0 .001µ
C3 N002 N007 1µ
R1 0 N018 20K
R2 IN N003 10K
C4 OUT2 0 220µ Rser=50m
C5 N012 N011 15p
C6 N013 N011 220p
R3 N013 N012 100K
R4 OUT2 N011 10.2K
R5 N011 0 11.5K
R6 N010 N011 1K
C7 OUT2 N010 2200p
M§Q3 IN N004 N006 N006 Si4410DY
M§Q4 N006 N008 0 0 Si4410DY
L2 N006 OUT1 2.2µ
C8 N001 N006 1µ
R7 0 N019 20K
C9 OUT1 0 220µ Rser=50m
C10 N015 N017 15p
C11 N014 N017 220p
R8 N014 N015 100K
R9 N016 N017 1K
C12 OUT1 N016 2200p
V1 IN 0 5
Rload2 OUT2 0 10
Rload1 OUT1 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 600u startup
.lib LTC1703.sub
.backanno
.end
